US07935815B2
Synthesis of 2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-[2-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine
Imidazole (4.75 g, 69.7 mmol) and Ethyl 5-chloro-2-(2-trifluoromethylphenyl)pentanimidoate hydrochloride (2.00 g, 5.81 mmol) were added the solution of (2E)-3-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylohydrazide dihydrochloride in methanol (10 mL) at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at 30° C. for 40 hours. The reaction mixture was adjusted to the pH6.5 with 5N HCl aq., and extracted with ethyl acetate (22 mL). The organic layer was washed with water (4 mL), concentrated under the reduced pressure and azeotroped with 2-propanol under the reduced pressure to obtain the title compound (2.4 g, 86% yield). Traces of seed crystal of the title compound which was obtained by the method similar to this step was added to the solution of the crude title compound in 2-propanol (10 mL), and the mixture was stirred at room temperature for 13.5 hours. The suspension was stirred for 2 hours with an ice-bath cooling. The solids were collected by filtration and washed with 2-propanol and dried under the reduced pressure to obtain the title compound (1.55 g, 56% yield).

reactant | Imidazole | 69.7 mmol, 4.75 g | N1C=NC=C1 | C3H4N2
reactant | Ethyl 5-chloro-2-(2-trifluoromethylphenyl)pentanimidoate hydrochloride | 5.81 mmol, 2.00 g | Cl.ClCCCC(C(OCC)=N)C1=C(C=CC=C1)C(F)(F)F
reactant | (2E)-3-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylohydrazide dihydrochloride | Cl.Cl.COC1=C(C=CC(=N1)/C=C/C(=O)NN)N1C=NC(=C1)C
reactant | HCl | 5N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-[2-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 2.4 g, 86% yield | COC1=C(C=CC(=N1)/C=C/C1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H23F3N6O
